US05886008
M. 3-(N-Methylpyrrolidin-2-ylmethyl)-5-(4-phenyl-2-nitrophenylamino)-1H-indole
(R)-5-Amino-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole and 4-bromo-3-nitrobiphenyl were used. Triethylamine was used as base, N,N-dimethylformamide was used as solvent, and the reaction was heated at 110° C. for 12 hours. Column chromatography afforded the title compound (24%) as a red amorphous solid: 1H NMR (CDCl3) δ 9.63 (br s, NH), 8.97 (br s, NH), 8.42 (d, J=2.2 Hz, 1 H), 7.56-7.25 (m, 9H), 7.08 (d, J=9.0 Hz, 2H), 3.50-3.32 (m, 2H), 2.95-2.79 (m, 2H), 2.59-2.52 (m, 1H), 2.53 (s, 3H), 2.05-1.71 (m, 4H); 13C NMR (CDCl3) δ 144.4, 138.8, 134.9, 134.5, 132.4, 131.1, 130.2, 129.7, 129.0, 127.3, 126.2, 124.7, 124.1, 120.8, 116.7, 115.9, 112.7, 112.0, 67.9, 57.4, 40.6, 31.2, 28.6, 21.9; FAB HRMS calculated for [C26H26N4O2.H]427.2136, found 427.2099.

reactant | (R)-5-Amino-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | NC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C14H19N3
reactant | 4-bromo-3-nitrobiphenyl | BrC1=C(C=C(C=C1)C1=CC=CC=C1)[N+](=O)[O-] | C12H8BrNO2
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(N-Methylpyrrolidin-2-ylmethyl)-5-(4-phenyl-2-nitrophenylamino)-1H-indole | 24% | CN1C(CCC1)CC1=CNC2=CC=C(C=C12)NC1=C(C=C(C=C1)C1=CC=CC=C1)[N+](=O)[O-] | C26H26N4O2
